US05663440
In a 1-liter three-necked flask equipped with a stirring device, a thermometer and a nitrogen substituting device, 40.5 g of 1,3-bis(4-(4-nitrobenzoyl)phenyl)-2-n-hexyl propane, 100 milliliters of 1,2-dichloroethane and 49.7 g of boron trifluoride diethyl ether complex were introduced and heated at reflux. 36.2 g of triethylsilane was added dropwise for 20 minutes with maintaining the temperature. After the end of the reaction was confirmed by a liquid chromatography, the reaction solution was poured in water and extracted with chloroform. After washing with an aqueous solution of sodium hydrogencarbonate and water, the solution was dried with anhydrous sodium sulfate. After removing off the solvent by a rotary evaporator, the residue was dissolved in toluene, and a separating operation was carried out by a column chromatography with silica gel. After removing off the solvent again, 40.9 g of 1,3-bis(4-(4-nitrobenzyl)phenyl)-2-n-hexyl propane was obtained as yellow oil.

reactant | 1,3-bis(4-(4-nitrobenzoyl)phenyl)-2-n-hexyl propane | 40.5 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)CC(CC2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)CCCCCC)C=C1 | C35H34N2O6
reactant | 1,2-dichloroethane | 100 milliliters | ClCCCl | C2H4Cl2
reactant | triethylsilane | 36.2 g | C(C)[SiH](CC)CC | C6H16Si
solvent | water | O | H2O
product | 1,3-bis(4-(4-nitrobenzyl)phenyl)-2-n-hexyl propane | 40.9 g | [N+](=O)([O-])C1=CC=C(CC2=CC=C(C=C2)CC(CC2=CC=C(C=C2)CC2=CC=C(C=C2)[N+](=O)[O-])CCCCCC)C=C1 | C35H38N2O4
